US20010008903A1
A mixture of the product from the previous reaction (0.45 g), potassium carbonate (0.32 g) and 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine (0.51 g) in dimethylformamide (4.5 ml) and toluene (10 ml) was heated at reflux temperature for 6 hours, then left to stand at room temperature for 72 hours and then heated at reflux temperature for a further 4 hours. The cooled mixture was poured into water (300 ml) and extracted with ethyl acetate (3×40 ml). The combined organic extracts were extracted with dilute aqueous hydrochloric acid (5M; 3×30 ml) and the combined aqueous extracts basified by the addition of sodium hydroxide solution (5M). The aqueous phase was extracted with ethyl acetate (3×300 ml), dried over magnesium sulphate and the solvent removed under reduced pressure to yield a yellow oil. Purification by flash column chromatography on silica eluting with a 95:5 mixture of ethyl acetate and methanol afforded (S)-N-(7,8-methylenedioxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine (0.3 g) as a clear oil. Citric acid (0.14 g) in ethanol (20 ml) was added to a solution of the oil in ethanol (20 ml) and the solvent was removed under reduced pressure to afford (S)-N-(7,8-methylenedioxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-1-[1-(2-methoxyphenyl)piperid-4-yl]methyl- amine monocitrate (0.3 g) as a fawn solid; m.p 120-22°C., [α]D−35.9°(c=0.575,MeOH)

reactant | potassium carbonate | 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine | 0.51 g | COC1=C(C=CC=C1)N1CCC(CC1)CN | C13H20N2O
reactant | water | 300 ml | O | H2O
reactant | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(7,8-methylenedioxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine | 0.3 g | C1OC=2C=CC3=C(O[C@H](CO3)CNCC3CCN(CC3)C3=C(C=CC=C3)OC)C2O1 | C23H28N2O5
